2179-04-18 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypotension
   24 Hour Events:
   - admitted for hypotension and ARF from RHF
   - coreg held, amiodarone continued
   - got two 250cc slow bolus for decreased UOP
   - pulsus negative
   - UOP questionable o/n
   - [**First Name8 (NamePattern2) 1948**] [**Last Name (NamePattern1) **] to consult on [**2179-4-18**]
   Allergies:
   Neomycin Sulfate/Hc (Topical)
   Unknown;
   Unknown;
   Beet
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-4-18**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.7
C (96.2
   HR: 47 (44 - 55) bpm
   BP: 74/45(52) {67/39(48) - 84/50(56)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    970 mL
                                                                    370 mL
   PO:
                                                                    220 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    250 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    410 mL
                                                                     49 mL
   Urine:
                                                                     90 mL
                                                                     49 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    560 mL
                                                                    321 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///20/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: JVP 10-12 cm, no LAD
   Lungs: bilateral rales 1/2 up lung fields L>R
   CV: bradycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, mildly distended, bowel sounds present. no
   rebound tenderness or guarding.  liver felt below costal margin.  No
   splenomegaly.  + shifting dullness.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis.  1+ LE
   edema.  Diffuse echymoses over right leg.  + effusion in right knee.
   Labs / Radiology
   90 K/uL
   9.4 g/dL
   90 mg/dL
   4.3 mg/dL
   20 mEq/L
   5.1 mEq/L
   109 mg/dL
   107 mEq/L
   137 mEq/L
   28.4 %
   5.2 K/uL
        [image002.jpg]
                             [**2179-4-18**]  03:54 AM
   WBC
   5.2
   Hct
   28.4
   Plt
   90
   Cr
   4.3
   Glucose
   90
   Other labs: PT / PTT / INR:18.5/34.8/1.7, Ca++:8.7 mg/dL, Mg++:3.0
   mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   A/P: 79 yo with PMH of CAD p/w hypotension x 6 weeks, guaiac positive
   stool, and ARF.
   .
   # Hypotension: No obvious systemic infectious source (though he likely
   has RLE cellulitis) so doubt SIRS/sepsis.  The majority of his
   hypotension is likely from low filling pressures in his LV [**3-15**] right
   heart failure as evidenced by known right heart failure, cardiomegaly,
   ascites [**3-15**] liver congestion.  ? albumin deficient from liver disease.
   Bradycardia is not approprite given his likely intravascular
   hypotension, likely because of his amiodarone.  He is otherwise fluid
   overloaded with elevated JVP, liver congestion, ascites, and LE edema.
   Lungs are clear.  Also complicated by moderate MR.  ARF still
   worsening.
   - [**First Name8 (NamePattern2) 1948**] [**Last Name (NamePattern1) **] to consult in the AM, ? milrinone, dobutamine/dopa
   - BP goals per mentation and UOP
   - ECHO
   - per outpation Cardiologist, Dr. [**Last Name (STitle) 6153**]
   - cont amio, holding coreg
   - hold lasix and ace-i
   - may need CVL
   .
   # Right heart failure: resulting in poor forward flow from LV, liver
   congestion, ascites, LE edema.  Also has moderate MR.
   - see above re: hypotension
   .
   # ARF: suspect prerenal, especially with BUN >>>> Cr (though also
   guaiac +, which can increase BUN).  Also suspect ATN secondary to
   hypoperfusion. Has history of MGUS, so could be contribution of
   multiple myeloma.  FENa 1.3 in setting of lasix, FeUrea 22 suggesting
   prerenal.  Worsening despite fluid.
   - holding lasix
   - holding antihypertensives
   - treat ARF by treating hypotension as above
   - f/u spep/upep
   .
   # GIB: HCT stable from [**4-8**] [**Location (un) 755**] stay to admission.  Known gastric
   ulcers from [**Location (un) 755**].  HCT down to 28.4 this AM
   - T and S
   - IV access
   - PPI
   - holding ASA
   - [**Hospital1 7**] HCT
   - GI to follow
   .
   # ascites: bili ok, though elevated at [**Location (un) 755**] on [**4-8**].  coags
   elevated.  Likely hepatic congestion [**3-15**] right heart failure.
   - heart failure treatment as above
   - vitamin k
   .
   # CAD: significant disease s/p CABG in [**2153**], stent [**2176**].  Cardiomegaly
   by CXR and syst. CHF as of [**2174**].  ? pericardial effusion by CXR, though
   not seen by bedside echo in ED.  Elevated trop likely [**3-15**] ARF,
   especially in setting of nl CK.
   - holding ASA [**3-15**] gastric ulcer
   - cont statin
   - holding coreg
   - ECHO
   .
   # anemia: see above re: GI bleed
   .
   # pyuria: WBC [**7-21**].  asymptomatic.
   - await culture data
   .
   # thrombocytopenia: ? [**3-15**] hepatic failure from right heart failure.
   Also ? of MDS per outpatient cardiologist.
   - follow
   .
   # LLE injury: knee has effusion and is erythematous.  He is afebrile
   and without leukocytosis.  Has ROM of knee, so doubt septic joint.
   - keflex
   - consider arthrocentesis if joint mobility worsens
   .
   # MGUS: ? contribution to ARF.
   - SPEP/UPEP
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: pneumoboots, PPI
   .
   # Access: 2 18G PIVs, place CVL
   .
   # Code: full code, confirmed with patient
   .
   # Communication: Patient
   .
   # Disposition: ICU vs CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2179-4-17**] 03:03 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU